US05547967
5 g of 5-(3,4-dimethoxyphenyl)-pyrazolin-3-one, prepared according to Example 1C, were suspended in 100 ml of toluene. First 3 ml of collidine and subsequently 3.6 ml of benzyl bromide were added dropwise to the suspension. After heating for 6 hours under reflux, the reaction mixture was cooled, and the precipitated crystals were filtered out and washed with isopropanol. The crystals obtained were dissolved in dichloromethane and washed with 2M citric acid. The organic phase was dried with magnesium sulfate and concentrated. For purification the residue was recrystallized from isopropanol. 4 g of 5-(3,4-dimethoxyphenyl)-2-benzyl-pyrazolin-3-one were obtained having a melting point of 165° C.

reactant | 5-(3,4-dimethoxyphenyl)-pyrazolin-3-one | 5 g | COC=1C=C(C=CC1OC)C1CC(NN1)=O | C11H14N2O3
reactant | collidine | 3 ml | N1=C(C=C(C=C1C)C)C | C8H11N
reactant | benzyl bromide | 3.6 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5-(3,4-dimethoxyphenyl)-2-benzyl-pyrazolin-3-one | 4 g | COC=1C=C(C=CC1OC)C1CC(N(N1)CC1=CC=CC=C1)=O | C18H20N2O3
